US04006243
(4-Bromobenzyl)-[4-(1-imidazolylmethyl)-phenyl]-ether
This substance is prepared analogously to Example 1 from 4-(1-imidazolylmethyl)-phenol and 4-bromobenzyl bromide.

reactant | 4-(1-imidazolylmethyl)-phenol | N1C(=NC=C1)CC1=CC=C(C=C1)O | C10H10N2O
reactant | 4-bromobenzyl bromide | BrC1=CC=C(CBr)C=C1 | C7H6Br2
product | (4-Bromobenzyl)-[4-(1-imidazolylmethyl)-phenyl]-ether | BrC1=CC=C(COC2=CC=C(C=C2)CC=2NC=CN2)C=C1 | C17H15BrN2O
